US04176198
2-methyl-3-chloroaniline (0.25 mole) and 4-chlorobenzaldehyde (0.25 mole) were ground in a mortar. The mixture was heated, with stirring in a water bath for 1.5 hours. Distillation at reduced pressure gave N-(p-chlorobenzylidene)-2-methyl-3-chloroaniline as a second fraction; B.p. 139° C./0.020 mm.; m.p. 79°-81° C.

reactant | 2-methyl-3-chloroaniline | 0.25 mole | CC1=C(N)C=CC=C1Cl | C7H8ClN
reactant | 4-chlorobenzaldehyde | 0.25 mole | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | N-(p-chlorobenzylidene)-2-methyl-3-chloroaniline | ClC1=CC=C(C=NC2=C(C(=CC=C2)Cl)C)C=C1 | C14H11Cl2N
